US07465726B2
tert-Butyl 4-[4-(3-thiophen-3-ylphenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate
The title compound was prepared following the procedure for tert-butyl 4-{4-[3-(1H-pyrrol-2-yl)phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylate, but using 3-thienylboronic acid. 1H-NMR (CD3OD, 400 MHz): δ=1.50 (s, 9H), 2.56 (m, 2H), 3.67 (m, 2H), 4.13 (m, 2H), 6.30 (s, br, 1H), 6.66 (s, 1H), 7.37-7.42 (m, 2H), 7.47-7.50 (m, 2H), 7.63-7.66 (m, 2H), 8.01-8.02 (m, 1H), 8.23 (s, 1H). MS (ES+): m/z 474.04 [MH+]. HPLC: tR=3.58 min (ZQ2000, polar—5 min).

reactant | tert-butyl 4-{4-[3-(1H-pyrrol-2-yl)phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylate | N1C(=CC=C1)C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C26H28N6O2
reactant | 3-thienylboronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | tert-Butyl 4-[4-(3-thiophen-3-ylphenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | S1C=C(C=C1)C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C26H27N5O2S
